US04264620
1-[(2S)-3-Mercapto-2-methylpropanoyl]-5-phenyl-2-pyrrolidinecarboxylic acid
20 g of 1-[(2S)-S-benzoyl-3-mercapto-2-methylpropanoyl]-5-phenyl-2-pyrrolidinecarboxylic acid is dissolved in 50 ml of methanol. To this solution 100 ml of conc. ammonia is added, and the mixture is stirred at room temperature for 1.5 hours. Excess ammonia and methanol are removed in vacuo, and the residue is washed with ethyl acetate. The aqueous layer is acidified with conc. hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to give the titled compound, yield 8.5 g (58%), mp. 138.0°-142.5° C. (ethyl acetate), [α]D29 -29.4° (c=1.0, methanol).

reactant | 1-[(2S)-S-benzoyl-3-mercapto-2-methylpropanoyl]-5-phenyl-2-pyrrolidinecarboxylic acid | 20 g | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1C(CCC1C1=CC=CC=C1)C(=O)O)C | C22H23NO4S
reactant | ammonia | 100 ml | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | 1-[(2S)-3-Mercapto-2-methylpropanoyl]-5-phenyl-2-pyrrolidinecarboxylic acid | SC[C@H](C(=O)N1C(CCC1C1=CC=CC=C1)C(=O)O)C | C15H19NO3S
